US08258158B2
1-(3-Cyclopropyl-propionyl)-piperidine-4-carboxylic acid (4-isopropyl-phenyl)-amide
This material was prepared in analogy to example 8 step C) from piperidine-4-carboxylic acid (4-isopropyl-phenyl)-amide (0.123 g), 3-cyclopropylpropionic acid (0.057 g) as white solid (0.124 g). MS (ESI): 343.17 (MH+).

reactant | piperidine-4-carboxylic acid (4-isopropyl-phenyl)-amide | 0.123 g | C(C)(C)C1=CC=C(C=C1)NC(=O)C1CCNCC1 | C15H22N2O
reactant | 3-cyclopropylpropionic acid | 0.057 g | C1(CC1)CCC(=O)O | C6H10O2
product | 1-(3-Cyclopropyl-propionyl)-piperidine-4-carboxylic acid (4-isopropyl-phenyl)-amide | C(C)(C)C1=CC=C(C=C1)NC(=O)C1CCN(CC1)C(CCC1CC1)=O | C21H30N2O2
